US04572912
In a similar manner to Preparation 45, to a mixture of 0.42 g of 6-acetoxy-2-(4-aminophenoxymethyl)-7-t-butyl-2-methylchroman-4-one and 5 ml of acetone were added dropwise, whilst cooling with ice, 0.2 ml of concentrated hydrochloric acid and then a solution of 0.09 g of sodium nitrite in 0.5 ml of water. 1.1 g of ethyl acrylate were then added dropwise, after which 16 mg of cuprous oxide were added gradually to the mixture, whilst keeping its temperature at 40°-43° C. Evolution of nitrogen ceased after about 30 minutes. Benzene was added to the reaction mixture, and the organic layer was separated. The resulting benzene extract was washed with water and dried over anhydrous sodium sulfate. The residue after evaporation of the benzene was subjected to silica gel column chromatography, eluted with a 20:1 by volume mixture of benzene and ethyl acetate, to give the desired ethyl 3-[4-(6-acetoxy-7-t-butyl-2-methyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate.

reactant | 6-acetoxy-2-(4-aminophenoxymethyl)-7-t-butyl-2-methylchroman-4-one | 0.42 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(C)COC1=CC=C(C=C1)N)=O | C23H27NO5
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | sodium nitrite | 0.09 g | N(=O)[O-].[Na+]
reactant | ethyl acrylate | 1.1 g | C(C=C)(=O)OCC | C5H8O2
solvent | water | 0.5 ml | O | H2O
solvent | Benzene | C1=CC=CC=C1 | C6H6
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | ethyl 3-[4-(6-acetoxy-7-t-butyl-2-methyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O | C28H33ClO7
